US07119086B2
1-(2-Pyridyl)homopiperazine
A mixture of 2-bromopyridine and 12 g of homopiperazine is heated at 100° C. for 6 hours. 50 ml of water are added to the reaction mixture and the resulting mixture is extracted with EtOAc, the organic phase is washed with saturated NaCl solution and dried over Na2SO4, and the solvent is evaporated off under vacuum. 1.28 g of the expected product are obtained.

reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
reactant | homopiperazine | 12 g | N1CCNCCC1 | C5H12N2
solvent | water | 50 ml | O | H2O
product | 1-(2-Pyridyl)homopiperazine | 1.28 g | N1=C(C=CC=C1)N1CCNCCC1 | C10H15N3
